US04337201
(S)-7-[[Hydroxy(4-phenylbutyl)phosphinyl]acetyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, methyl ester
(S)-7-[[Ethoxy(4-phenylbutyl)-phosphinyl]acetyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, methyl ester (3.44 g) and dry dichloromethane (15 ml) are added to a flask under an argon atmosphere. Using a gas-tight syringe, bromotrimethylsilane (1.5 ml) is added to the flask, which is stirred for about 16 hours at room temperature. Ethyl acetate (50 ml) and water (10 ml) are added to the flask and stirred for 30 minutes. The mixture is diluted with ether and transferred to a separatory funnel. The organic layer is extracted with saturated sodium bicarbonate (two 25 ml portions) and the extract is acidified to pH 1.0 to precipitate product which is extracted into ethyl acetate. The ethyl acetate extract is washed with brine, run through sodium sulfate to dry, and the solvent is stripped leaving the title compound as an oil (2.99 g).

reactant | (S)-7-[[Ethoxy(4-phenylbutyl)-phosphinyl]acetyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, methyl ester | 3.44 g | C(C)OP(=O)(CCCCC1=CC=CC=C1)CC(=O)N1CC2(SCCS2)C[C@H]1C(=O)OC | C22H32NO5PS2
reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
reactant | bromotrimethylsilane | 1.5 ml | Br[Si](C)(C)C | C3H9BrSi
reactant | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
solvent | water | 10 ml | O | H2O
product | (S)-7-[[Hydroxy(4-phenylbutyl)phosphinyl]acetyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, methyl ester | 2.99 g | OP(=O)(CCCCC1=CC=CC=C1)CC(=O)N1CC2(SCCS2)C[C@H]1C(=O)OC | C20H28NO5PS2
